US07375134B2
Synthesis of (2S)-2-[(1S)-2,2,2-trifluoro-1-(4′-methylbiphenyl-4-yl)-ethylamino]-pentanoic acid (1-cyanocyclopropyl)-amide
The title compound was synthesized in similar manner to that described for N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide via Suzuki cross-coupling between p-tolylboronic acid and N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide in the presence of [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), dichloromethane complex. MS (+ESI): 430 [M+1]+

reactant | N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide | C(#N)C1(CC1)NC([C@@H](N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)CCC)=O | C24H26F3N3O3S
reactant | p-tolylboronic acid | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@@H](CCC)C(=O)NC1(CC1)C#N | C17H19BrF3N3O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2S)-2-[(1S)-2,2,2-trifluoro-1-(4′-methylbiphenyl-4-yl)-ethylamino]-pentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CCC)N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C)=O | C24H26F3N3O
